US09422331B2
A solution of tert-butyl(S)-1-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (55 mg, 75 μmol) in methanol (500 μl) at room temperature was treated with a 2 M hydrochloric acid in diethyl ether solution (1.3 ml) and stirred for 3.5 h. The reaction was then concentrated in vacuo, dissolved in water and placed on a lyophilizer over night to afford (S)-N-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (43 mg, 86%) as an off white powder: LC-MS m/z 637 [M+H]+.

reactant | tert-butyl(S)-1-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 75 μmol, 55 mg | BrC=1C=C2C=CC(=C(C2=CC1)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(=O)C1CCOCC1)C=CC=C2)OC | C37H45BrN4O7
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | methanol | 500 μl | CO | CH4O
solvent | diethyl ether | 1.3 ml | C(C)OCC | C4H10O
product | (S)-N-((3S,4S)-1-((6-bromo-2-methoxynaphthalen-1-yl)methyl)-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 43 mg, 86% | Cl.BrC=1C=C2C=CC(=C(C2=CC1)CN1C2=C(N([C@H]([C@@H](C1=O)NC([C@H](C)NC)=O)C)C(=O)C1CCOCC1)C=CC=C2)OC | InChI=1S/C32H37BrN4O5.ClH/c1-19(34-3)30(38)35-29-20(2)37(31(39)21-13-15-42-16-14-21)27-8-6-5-7-26(27)36(32(29)40)18-25-24-11-10-23(33)17-22(24)9-12-28(25)41-4;/h5-12,17,19-21,29,34H,13-16,18H2,1-4H3,(H,35,38);1H/t19-,20-,29-;/m0./s1
